US07645753B2
[4-Chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-phenyl]-methanol
To a solution of 4-chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-benzoic acid (0.17 g, 0.51 mmol, 1.0 equiv) was added borane (1.02 mL, 1.02 mmol, 2.0 equiv; 1 M solution in THF) and the reaction mixture stirred at rt overnight. The reaction was quenched by addition of a few drops of methanol, ethyl acetate was added (50 mL) and the organic phase washed with a 1 M solution of NaOH (3×20 mL). The organic phase was dried over MgSO4, the solvent removed by evaporation under reduced pressure and the crude material used in the next step without further purification. Yield: 0.089 g (58%). 1H NMR (300 MHz, CDCl3): δ 1.39 (t, J=7.0 Hz, 3H), 3.13-3.16 (m, 4H), 3.42-3.45 (m, 4H), 4.04 (q, J=7.0 Hz, 2H), 4.56 (s, 2H), 6.64 (br s, 1H), 6.67 (br s, 1H).

reactant | 4-chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-benzoic acid | 0.51 mmol, 0.17 g, 1.0 equiv | ClC1=C(C=C(C(=O)O)C=C1OCC)N1CCS(CC1)(=O)=O | C13H16ClNO5S
reactant | borane | 1.02 mmol, 1 M, 1.02 mL, 2.0 equiv | B | BH3
product | [4-Chloro-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-5-ethoxy-phenyl]-methanol | ClC1=C(C=C(C=C1OCC)CO)N1CCS(CC1)(=O)=O | C13H18ClNO4S
